US05556977
RS Methyl 4-[3-[4-(4-pyridyl)piperazin-1-yl]-2-methylpropanoyl]phenoxyacetate
A stirred mixture of methyl 4-(2,2-dimethylbromoacetyl)phenoxyacetate (3.15 g), and 1-(4-pyridyl)piperazine (3.26 g) in acetonitrile (200 ml) was heated at reflux temperature for 4 days. The solvent was removed in vacuo and the residue partioned between dichloromethane/water. The organic phase was dried (MgSO4), evaporated and then purified by flash chromatography on silica, eluting with 2 to 5% v/v methanol/dichloromethane. Further purification by flash chromatography on neutral alumina, eluting with dichloromethane, gave the title compound, 350 mg, as a clear oil: NMR (d6DMSO) δ8.12 (2H, d), 7.98 (2H, d), 7.04 (2H, d), 6.75 (2H, d), 4.92 (2H, s), 3.86 (1H,m), 3.71 (3H, s), 3.19 (4H, t), 2.70 (1H, q), 2.49 (DMSO+4H), 2.36 (1H, q), 1.09 (3H, s), trace of dichloromethane; m/e 398 (M+H)+ ; calculated for C22H27N3O4.0.1 CH2Cl2 : C, 65.3; H, 6.7; N, 10.3. found: C, 65.1; H, 6.9; N, 10.1%.

reactant | methyl 4-(2,2-dimethylbromoacetyl)phenoxyacetate | 3.15 g | CC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)(C)Br | C13H15BrO4
reactant | 1-(4-pyridyl)piperazine | 3.26 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Methyl 4-[3-[4-(4-pyridyl)piperazin-1-yl]-2-methylpropanoyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)CC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)C | C22H27N3O4
